US07087601B2
To 700 mL of degassed CH3CN was added methyl vanillate (21.1 g, 116 mmol), N-phenyltrifluoromethanesulfonimide (41.3 g, 116 mmol), and cesium carbonate (37.7 g, 116 mmol). The mixture was stirred under an argon atmosphere for 48 h at which point it was partitioned between EtOAc (750 mL) and H2O (750 mL). The organic layer was washed with saturated Na2CO3, H2O, and brine, dried over MgSO4, and concentrated in vacuo. The crude material was purified by column chromatography (1:9 EtOAc/hexanes) to give methyl 3-methoxy-4-{[(trifluoromethyl)sulfonyl]oxy}benzoate as a colorless oil that became a colorless solid upon standing. 1H NMR (DMSO-d6, 300 MHz) δ 7.77 (d, 1H), 7.68 (dd, 1H), 7.59 (d, 1H), 4.00 (s, 3H), 3.91 (s, 3H).

reactant | methyl vanillate | 116 mmol, 21.1 g | C(C1=CC(OC)=C(O)C=C1)(=O)OC | C9H10O4
reactant | N-phenyltrifluoromethanesulfonimide | 116 mmol, 41.3 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | cesium carbonate | 116 mmol, 37.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | CH3CN | 700 mL | CC#N | C2H3N
product | methyl 3-methoxy-4-{[(trifluoromethyl)sulfonyl]oxy}benzoate | COC=1C=C(C(=O)OC)C=CC1OS(=O)(=O)C(F)(F)F | C10H9F3O6S
